US08580794B2
4-(1,4-dioxaspiro[4.5]decan-8-ylamino)-3-nitrobenzenesulfonamide
To a solution of 4-fluoro-3-nitrobenzenesulfonamide (1.4 g) in tetrahydrofuran (30 mL) was added 1,4-dioxaspiro[4.5]decan-8-amine (1.0 g) and diisopropylethylamine (5 mL). The mixture was stirred overnight. The mixture was diluted with ethyl acetate (300 mL) and washed with water, brine and dried over Na2SO4. Filtration and evaporation of the solvent gave the title compound.

reactant | 4-fluoro-3-nitrobenzenesulfonamide | 1.4 g | FC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C6H5FN2O4S
reactant | 1,4-dioxaspiro[4.5]decan-8-amine | 1.0 g | O1CCOC12CCC(CC2)N | C8H15NO2
reactant | diisopropylethylamine | 5 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 4-(1,4-dioxaspiro[4.5]decan-8-ylamino)-3-nitrobenzenesulfonamide | O1CCOC12CCC(CC2)NC2=C(C=C(C=C2)S(=O)(=O)N)[N+](=O)[O-] | C14H19N3O6S
